US04900833
2.925 g (0.0075 mol) of (R)-N-(ethoxymethyl)-1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-3-methoxycarbonylpyridine-5-carboxylic acid and 1.34 g (0.0082 mol) of carbonyldiimidazole are dissolved in 50 ml of dimethylformamide. The mixture is heated at 40° C. for one hour. 2.13 g (0.0075 mol) of the product obtained in Preparation XX and 1.12 ml (0.0075 mol) of 1,8-diazabicyclo[5.4.0]undec-7-ene are then added to the reaction medium. The mixture is heated to 100° C. After 2 hours, the mixture is left to cool and then poured into 100 ml of water. The medium is extracted 3 times with 30 ml of ethyl acetate. The organic phases obtained are washed twice with 10 ml of water, dried over magnesium sulfate and filtered and the solvent is evaporated off. The crude product obtained is purified by flash chromatography, elution being carried out with a toluene/isopropanol mixture (97:3 v/v). This gives 4.8 g (yield: 98%) of an oil.

reactant | (R)-N-(ethoxymethyl)-1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-3-methoxycarbonylpyridine-5-carboxylic acid | 0.0075 mol, 2.925 g | C(C)OCN1C(=C([C@@H](C(=C1C)C(=O)O)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC)C | C19H22N2O7
reactant | carbonyldiimidazole | 0.0082 mol, 1.34 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.0075 mol, 1.12 ml | N12CCCCCC2=NCCC1 | C9H16N2
